US06437133B1
Trimetyl alminum (0.98M n-hexane solution, 1.3 ml, 1.3 mmol) was added to an anhydrous toluene solution (2 ml) of N-allyl-N-benzoyl aniline (100 mg, 422 mmol) and nickel dichloro bis (diphenyl phosphino) propane (9 mg, 17 mmol) under ice cooling, and the mixture was refluxed for 7 hours. After the reaction, diethyl ether (3 ml) and a 0.5N solution (1.3 ml) of sodium hydroxide were added under ice cooling, and the mixture was stirred at room temperature for 2 hours. The reaction solution was dried over anhydrous magnesium sulfate, cerite was added thereto, the mixture was filtered, and the solvent was distilled away from the filtrate in vacuo. The resulting residue was subjected to silica gel chromatography (elution solution: diethyl ether/n-hexane=1/5, v/v) to N-benzoyl aniline (61 mg, yield 73%).

reactant | n-hexane | 0.98M | CCCCCC | C6H14
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
reactant | N-allyl-N-benzoyl aniline | 422 mmol, 100 mg | C(C=C)N(C1=CC=CC=C1)C(C1=CC=CC=C1)=O | C16H15NO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | nickel dichloro bis (diphenyl phosphino) propane | 17 mmol, 9 mg | ClC(C(C)(P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[Ni]
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | N-benzoyl aniline | 61 mg, yield 73% | C(C1=CC=CC=C1)(=O)NC1=CC=CC=C1 | C13H11NO
